Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Tachycardia
 
Major Surgical or Invasive Procedure:
TEE/CARDIOVERSION on ___

 
History of Present Illness:
___ hx of ankylosing spondylitis, gout, gerd presenting with ___ 
year of generalized weakness and ___ months of increasing 
shortness of breath with exertion to his PCP office and found to 
be in afib/flutter. 

Patient reports USOH until about a year ago, when he started 
feeling generalized weakness. Patient was initially not that 
concerned, but starting ___ months ago noticed increasing SOB 
with climbing stairs and walks, even on flat groung. Also 
reports a sensation of pounding pulse in his feet when lying 
down. Denies chest pain, palpitations, orthopnea. Endorses 
snoring recently, and per wife has apneic episodes while 
sleeping. 

Of note, patient has a history of ___ days naproxen use every 
week or two for neck pain from ___ has no diagnosis of 
CKD. Also reports decreased tone in R arm, 10lb wt gain over 
past year. No leg swelling. Patient endorses excessive bleeding 
following polypectomy during colonoscopy ___ years ago.

In the ED initial vitals were: 98.0 ___ 16 97% RA 
EKG: aflutter, ST depressions in ___ leads, QT 520
Labs/studies notable for: trop <0.01, Cr 1.3 from 1.4 ___, 
stable h/h. 
CXR: No acute cardiopulmonary process.  The cardiac silhouette 
is top normal in size. 
Patient was given: Diltiazem 30mg PO, 20mg IV with improvement 
in HR to the ___
Vitals on transfer: 98.7 124/93 99 18 96/RA

On the floor, patient reports improvement in symptoms following 
receiving diltiazem in the ED.   

 
Past Medical History:
1. CARDIAC RISK FACTORS: None
2. CARDIAC HISTORY
- CABG: None
- PERCUTANEOUS CORONARY INTERVENTIONS: None
- PACING/ICD: None
3. OTHER PAST MEDICAL HISTORY
Gout
ankylosing spondylitis
___ esophagus-GERD
appendectomy
benign pancreatic mass
 
Social History:
___
Family History:
-Father died in ___ of heart disease related to cigarettes and 
EtOH
-Uncle with valve disease in ___
-Aunt, grandma with lacunar infarcts
-Aunt with renal stenosis
-thyroid disease in numerous relatives

 
Physical Exam:
ADMISSION
=========
VS: 98.7 124/93 99 18 96/RA
GENERAL: WDWN in NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with JVP of 10 cm.  
CARDIAC: Tachycardic, regular, normal S1, S2. No 
murmurs/rubs/gallops. No thrills, lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

DISCHARGE
=========
VS: 98.8 ___ 70-154 18 96%RA
GENERAL: In bed, in NAD. Oriented x3. Mood, affect appropriate.  

HEENT: MMM, no carotid bruits. JVP to mid neck. 
CARDIAC: Tachycardic, regular, normal S1, S2. No 
murmurs/rubs/gallops. No thrills, lifts.  
LUNGS: CTAB, no crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND.  
EXTREMITIES: WWP, +2 radial and distal pulses in the 
extremities, bilaterally. No edema. Equal strength bilaterally.
SKIN: No rashes , ulcers, scars, or xanthomas. 
 
Pertinent Results:
ADMISSION
=========
___ 10:02AM BLOOD WBC-5.9 RBC-4.90 Hgb-15.4 Hct-44.1 MCV-90 
MCH-31.4 MCHC-34.9 RDW-13.4 RDWSD-44.2 Plt ___
___ 10:02AM BLOOD Neuts-50.0 ___ Monos-10.5 Eos-3.2 
Baso-0.8 Im ___ AbsNeut-2.95 AbsLymp-2.08 AbsMono-0.62 
AbsEos-0.19 AbsBaso-0.05
___ 10:02AM BLOOD ___ PTT-26.5 ___
___ 10:02AM BLOOD Glucose-101* UreaN-21* Creat-1.3* Na-140 
K-4.3 Cl-102 HCO3-26 AnGap-16
___ 10:02AM BLOOD cTropnT-<0.01
___ 10:02AM BLOOD proBNP-103
___ 10:02AM BLOOD Calcium-10.0 Phos-3.8 Mg-2.1
___ 04:27PM BLOOD %HbA1c-5.3 eAG-105
___ 10:02AM BLOOD TSH-2.1

DISCHARGE
=========
___ 07:15AM BLOOD ___ PTT-28.3 ___
___ 07:15AM BLOOD WBC-5.3 RBC-4.78 Hgb-15.0 Hct-42.2 MCV-88 
MCH-31.4 MCHC-35.5 RDW-13.6 RDWSD-44.1 Plt ___
___ 07:15AM BLOOD Glucose-102* UreaN-19 Creat-1.3* Na-138 
K-4.0 Cl-102 HCO3-26 AnGap-14
___ 07:15AM BLOOD Calcium-9.4 Phos-3.7 Mg-2.1

IMAGING
=======
-TEE for cardioversion:
The left atrium is dilated. No spontaneous echo contrast or 
thrombus is seen in the body of the left atrium/left atrial 
appendage or the body of the right atrium/right atrial 
appendage. Left atrial appendage idealized diameter 1.7 cm. The 
right atrium is dilated. Right atrial appendage ejection 
velocity is good (>20 cm/s). No atrial septal defect is seen by 
2D or color Doppler. Overall left ventricular systolic function 
is low normal (LVEF 50-55%). Right ventricular chamber size is 
normal with borderline normal free wall function. The aortic 
valve leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis. No aortic regurgitation is 
seen. The mitral valve leaflets are mildly thickened. There is 
no mitral valve prolapse. Mild (1+) mitral regurgitation is 
seen. There is no pericardial effusion. 
IMPRESSION: No ___ thrombus detected. Normal left 
ventricular wall thickness, cavity size, with low-normal 
systolic function. Mild mitral regurgitation. 

-CXR:
The lungs are clear without focal consolidation.  No pleural 
effusion or 
pneumothorax is seen. The cardiac and mediastinal silhouettes 
are 
unremarkable. 

 
Brief Hospital Course:
___ hx of ankylosing spondylitis, gerd, p/w new A-flutter with 
2:1 block in the 150s in the setting of "restlessness" and SOB.

#Aflutter:
Patient reporting ___ of "restlessness" w/ ___ months of 
progressive SOB. EKG w/ aflutter w/ some ST changes which may be 
tachycardia-related. Trops negative with no obvious cardiac risk 
factors. Unclear timing or precipitating event, although appears 
to have nl HR per note ___. Patient w/ ___ CKD which can 
predispose to aflutter. Exam and recent TTE with PCP without ___ 
valvular or structural heart disease. No evidence of thyroid d/o 
(TSH 1.6 ___, 2.2 in ED). Patient endorses snoring and apneic 
episodes c/f OSA, which may also be precipitant. Initially rate 
controlled with diltiazem. TEE did not demonstrate thrombus or 
any structural abnormalities, EF 50-55%. Underwent cardioversion 
with reversion to sinus rhythm. Will continue apixiban 5mg for 4 
weeks following cardioversion; will likely pursue ablation as 
outpatient. 

#CKD:
Patient with cr elevated to 1.3 on admission, was 1.4 ___. No 
report of CKD in prior notes. Unclear etiology: no HTN noted on 
prior progress notes or hx of DM (A1c 5.3). Likely related to 
extensive Nsaid use ___ ___ and gout. Cr 1.3 on discharge. 


CHRONIC ISSUES
#Gout: continued allopurinol
#Gerd: continued omeprazole

TRANSITIONAL ISSUES:
- Will be discharged on apixaban 5mg BID to be taken for four 
weeks post cardioversion
- Will be scheduled for outpatient atrial flutter ablation
- Please recheck Cr at PCP visit to confirm stable and his 
apixaban dose is appropriate.

Full code
CONTACT: ___ (HCP, wife): ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. Allopurinol ___ mg PO DAILY 

 
Discharge Medications:
1. Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0
2. Allopurinol ___ mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
- Typical Atrial flutter with rapid ventricular response 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 
It was our pleasure participating in your care here at ___. 
You were admitted on ___ with a fast heart rate called 
atrial flutter. You were given medications to slow the heart 
rate down and then underwent a procedure (called cardioversion) 
to convert your heart rate to a normal rhythm. The procedure was 
successful but it will be very important that you take a blood 
thinner (apixaban) to help prevent blood clots from forming.

You will also have a different procedure called an atrial 
flutter ablation to try to prevent recurrence of this heart 
rhythm. You will be called to schedule this procedure. 

If you develop worsening palpitations, chest pain, shortness of 
breath, bleeding, or any other concerning symptom, please let 
your doctor know right away.

Again, it was our pleasure participating in your care here at 
___.

We wish you the best,
Your ___ Team

 
Followup Instructions:
___